US08258144B2
6-(4-(4-(aminomethyl)piperidin-1-yl)-5-cyclopropylpyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one
A solution of tert-butyl (1-(2-chloro-5-cyclopropylpyrimidin-4-yl)piperidin-4-yl)methylcarbamate (99 mg, 0.27 mmol) and 6-amino-3,4-dihydroquinolin-2(1H)-one (50 mg, 0.30 mmol) in nBuOH (3 mL) was stirred at 116° C. for 20 h. It was then stirred at 140° C. for another 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give a powder, which was then dissolved in TFA (3 mL). After being stirred at room temperature for 20 h, TFA was removed in vacuo. The residue was purified by HPLC to give the titled compound (16 mg). MS 393.5 (M+H); UV 208.9, 264.5 nm

reactant | tert-butyl (1-(2-chloro-5-cyclopropylpyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.27 mmol, 99 mg | ClC1=NC=C(C(=N1)N1CCC(CC1)CNC(OC(C)(C)C)=O)C1CC1 | C18H27ClN4O2
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.30 mmol, 50 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-cyclopropylpyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | 16 mg | NCC1CCN(CC1)C1=NC(=NC=C1C1CC1)NC=1C=C2CCC(NC2=CC1)=O | C22H28N6O
